US07858817B2
Synthesis of 2-bromo-6-ferrocenylpyridine (I-B).
See Scheme 3. Toluene (15 mL) was added to 2,6-dibromopyridine (0.341 g, 1.44 mmol, purchased from Sigma-Aldrich) and ferrocenylboronic acid (0.321 g, 1.40 mmol, purchased from Sigma-Aldrich) to form an orange suspension. A suspension of (dppf)PdCl2.CH2Cl2 (0.047 g, 0.058 mmol, purchased from Strem) (dppf=1,1′-bis(diphenylphosphino)ferrocene) in toluene (5 mL) was then added followed by a 1 M solution of Na2CO3 (10 mL, 10 mmol) in 4:1 water:methanol. The biphasic mixture was heated to 60° C. for 23 hours. At this time 1H NMR spectroscopic analysis indicated approximately 45% conversion to the desired product. The organic layer was separated, washed with a little water and then brine. The organics were then dried over MgSO4 and filtered. Removal of the volatiles afforded an orange residue. The remaining 2,6-dibromopyridine was removed by sublimation at 45° C./ca. 100 mTorr over 2 hours. The crude was purified on an Al2O3 column using 4% ethyl acetate in hexane as the elutant. The product was still contaminated with some 2,6-diferrocenylpyridine. Pure 2-bromo-6-ferrocenylpyridine was isolated by crystallization from hexamethyldisiloxane. Yield: 0.058 g (12%). 1H NMR(C6D6): δ 6.87 (1H, d), 6.79 (1H, d), 6.64 (1H, t), 4.83 (2H, m), 4.11 (2H, m), 3.83 (5H, s).

reactant | 2,6-dibromopyridine | 1.44 mmol, 0.341 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | ferrocenylboronic acid | 1.40 mmol, 0.321 g | [C-]1(C=CC=C1)B(O)O.[CH-]1C=CC=C1.[Fe+2]
reactant | CH2Cl2 | 0.058 mmol, 0.047 g | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 10 mmol, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-bromo-6-ferrocenylpyridine | BrC1=NC(=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C10H7BrN.C5H5.Fe/c11-10-7-3-6-9(12-10)8-4-1-2-5-8;1-2-4-5-3-1;/h1-7H;1-5H;/q2*-1;+2
